data/pmechdb/original/mc_train_fold0/raw/train.txt
C1=CC=C(C=C1)C(=O)N[NH:10][CH:20](C2=CC=C(C=C2)Br)[OH2+:21].C(=O)(C(F)(F)F)[O-]>>C1=CC=C(C=C1)C(=O)N[NH+:10]=[CH:20]C2=CC=C(C=C2)Br.[OH2:21].C(=O)(C(F)(F)F)[O-] 10=20;20,21=21
[H:20][O:21]C1=C(C=CC=C1)[N+](=O)[O-].[OH-:10]>>[H:20][OH:10].C1=CC(=C(C=C1)[O-:21])[N+](=O)[O-] 10=20;20,21=21
C[C:20](=[OH+:21])O.[OH2:10].[Cl-]>>C[C:20]([OH2+:10])(O)[OH:21].[Cl-] 10=20;20,21=21
[H:20][OH+:21]C(C)(C)CC.[OH2:10]>>[H:20][OH2+:10].CCC(C)(C)[OH:21] 10=20;20,21=21
[H:20][O:21]C(=O)C.CCOC(=O)C1=C(NC2(C1C=C(C=C2)O)[OH:10])COC.CCOC(=O)C>>[H:20][OH+:10]C12C=CC(=CC1C(=C(N2)COC)C(=O)OCC)O.CC(=O)[O-:21].CCOC(=O)C 10=20;20,21=21
[H:20][C:21]1(C=CC=C([CH+:22]1)S(=O)(=O)O)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=C[C:21](=[CH:22]C(=C1)S(=O)(=O)O)S(=O)(=O)O 10=20;20,21=21,22
C[Si-:10](C)(C)([O:11]S(=O)(=O)C)Br>>C[Si:10](C)(C)Br.CS(=O)(=O)[O-:11] 10,11=11
[B:20](F)(F)F.C=C(CC1C(O1)C=[O:10])Br.CCOCC.CC(COCC1=CC=C(C=C1)OC)C(=C)C[Si](C)(C)C>>[B-:20]([O+:10]=CC1C(O1)CC(=C)Br)(F)(F)F.CCOCC.CC(COCC1=CC=C(C=C1)OC)C(=C)C[Si](C)(C)C 10=20,
[B:20]1(OC(C(O1)(C)C)(C)C)OC(=CC)C.C1=CC=C(C=C1)C=[O:10]>>[B-:20]1(OC(C(O1)(C)C)(C)C)(OC(=CC)C)[O+:10]=CC2=CC=CC=C2 10=20,
CCC[C:10](=[C:11](C1=C(C=CC(=C1)Br)O)[N:12]2CCCC2C3=NN=NN3)[CH:20](C4=CC=C(C=C4)[N+](=O)[O-])[OH2+:21].C(=O)(C(F)(F)F)[O-].O>>CCC[C:10](=[CH:20]C1=CC=C(C=C1)[N+](=O)[O-])[C:11](=[N+:12]2CCCC2C3=NN=NN3)C4=C(C=CC(=C4)Br)O.[OH2:21].C(=O)(C(F)(F)F)[O-].O 10,11=10,20;20,21=21;12=11
[H:20][O:21]C.C1C(=[O:10])C2=C(N1)C=CC=C2>>[H:20][O+:10]=C1CNC2=C1C=CC=C2.C[O-:21] 10=20;20,21=21
[H:20][O+:21](CCC(=O)Cl)S(=O)Cl.C1=CC=[N:10]C=C1>>[H:20][N+:10]1=CC=CC=C1.C(C[O:21]S(=O)Cl)C(=O)Cl 10=20;20,21=21
CC[S-:10].C1CC(=O)[C:21](=[CH:20]1)Br>>CC[S:10][CH:20]1CCC(=O)[C-:21]1Br 10=20;20,21=21
C(C[O-:10])C[O-].[AlH3:20]>>C(C[O-])C[O:10][AlH3-:20] 10=20,
[H:20][C:21]1(C=C[C+:24]([CH:23]=[CH:22]1)N)N=NC2=CC=CC=C2.[Cl-:10]>>[H:20][Cl:10].C1=CC=C(C=C1)N=N[C:21]2=[CH:22][CH:23]=[C:24](C=C2)N 10=20;20,21=21,22;22,23=23,24
C1C=CC2C1[C:20](=[O:21])C2Cl.[OH:10][Na]>>C1C=CC2C1[C:20](C2Cl)([O-:21])[OH+:10][Na] 10=20;20,21=21
COC1=CC(=CC=C1)CCNC(=[O+][P:20]([O-:10])(Cl)(Cl)[Cl:21])CC2=CC(=C(C=C2)OC)O>>COC1=CC(=CC=C1)CCNC(=[O+][P:20](=[O:10])(Cl)Cl)CC2=CC(=C(C=C2)OC)O.[Cl-:21] 10=20;20,21=21
C1=CC=C(C=C1)CC[C:20](=[O:10])[Cl+:21][Al-](Cl)(Cl)Cl>>C1=CC=C(C=C1)CC[C:20]#[O+:10].[Al-](Cl)(Cl)(Cl)[Cl:21] 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=CC2=C1C=CC=C2C(F)(F)F)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=CC2=C(C=C[CH:22]=[C:21]2[N+](=O)[O-])C(=C1)C(F)(F)F 10=20;20,21=21,22
CCO[P:10](C)(C)(C)[Cl:11]>>CCO[P+:10](C)(C)C.[Cl-:11] 10,11=11
C[CH:20]([O:10]C)[I:21]>>C[CH:20]=[O+:10]C.[I-:21] 10=20;20,21=21
[H:20][OH+:21]C(C)(C)C(C)C.[OH2:10]>>[H:20][OH2+:10].CC(C)C(C)(C)[OH:21] 10=20;20,21=21
CC1(OC2C(C=CC(C2O1)OCC3=C(C4=C(C=C3)OCO4)Br)[OH:10])C.C(F)(F)(F)[S:20](=[O:21])(=O)OS(=O)(=O)C(F)(F)F>>CC1(OC2C(C=CC(C2O1)OCC3=C(C4=C(C=C3)OCO4)Br)[OH+:10][S:20](=O)(C(F)(F)F)([O-:21])OS(=O)(=O)C(F)(F)F)C 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.C[C:11](=[CH2:10])CCCO>>[H:20][CH2:10][C+:11](C)CCCO.OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21
[H:20][C:21]1([C:22](=[OH+:23])CCC1(COCC2=CC=CC=C2)Br)Br.C1=CC=[N:10]C=C1>>[H:20][N+:10]1=CC=CC=C1.C1CC([C:21](=[C:22]1[OH:23])Br)(COCC2=CC=CC=C2)Br 10=20;22,23=23;20,21=21,22
[H:20][OH+:21]C1CCCCC1.C1CCC(CC1)OC(CC2=CC=CC=C2)(O)[OH:10].OS(=O)(=O)[O-]>>[H:20][OH+:10]C(CC1=CC=CC=C1)(O)OC2CCCCC2.C1CCC(CC1)[OH:21].OS(=O)(=O)[O-] 10=20;20,21=21
CC1CC(C(C=C1CO[Si](C2=CC=CC=C2)(C3=CC=CC=C3)C(C)(C)C)(C)CCCO[Si](C)(C)C(C)(C)C)(C[S+](C4=CC=CC=C4)O[C:20](C)([O-:10])[O:21]C(=O)C)O.CC(=O)[O-].[Na+]>>CC1CC(C(C=C1CO[Si](C2=CC=CC=C2)(C3=CC=CC=C3)C(C)(C)C)(C)CCCO[Si](C)(C)C(C)(C)C)(C[S+](C4=CC=CC=C4)O[C:20](=[O:10])C)O.CC(=O)[O-:21].CC(=O)[O-].[Na+] 10=20;20,21=21
COC(=O)N1CCCC1C[CH+:20][CH2:10][Si-:11](C)(C)(C)[O+](C)[Ti-](Cl)(Cl)(Cl)Cl>>COC(=O)N1CCCC1C[CH:20]=[CH2:10].C[O+]([Si:11](C)(C)C)[Ti-](Cl)(Cl)(Cl)Cl 10,11=10,20
CC[CH:20]([OH2+:21])[OH:10]>>CC[CH:20]=[OH+:10].[OH2:21] 10=20;20,21=21
[H:20][Cl:21].CCCCCC1=CC(=CC(=C1)O)[OH:10].CC(=CCCC(=CC=O)C)C>>[H:20][OH+:10]C1=CC(=CC(=C1)CCCCC)O.[Cl-:21].CC(=CCCC(=CC=O)C)C 10=20;20,21=21
CCC(C)[NH:10]C.[CH3:20][I:21]>>CCC(C)[NH+:10](C)[CH3:20].[I-:21] 10=20;20,21=21
C[NH2:10].CO[C:20](=[O:21])Cl>>C[NH2+:10][C:20]([O-:21])(OC)Cl 10=20;20,21=21
[H:20][OH2+:21].CC(CC1=NC=CC=C1)(CC2=NC=CC=C2)[O-:10]>>[H:20][O:10]C(C)(CC1=NC=CC=C1)CC2=NC=CC=C2.[OH2:21] 10=20;20,21=21
CC1=C(C(=C([N+](=C1C)[Si:20](C)(C)C)N(C)S(=O)(=O)C)C)N(C)S(=O)(=O)C.C(F)(F)(F)S(=O)(=O)[O-:10]>>CC1=C(C(=C([N+](=C1C)[Si-:20](C)(C)(C)[O:10]S(=O)(=O)C(F)(F)F)N(C)S(=O)(=O)C)C)N(C)S(=O)(=O)C 10=20,
CC(C)[CH:20](C)[O:21][P+:22](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.[Br-:10].C(Br)(Br)Br>>CC(C)[CH:20](C)[Br:10].C1=CC=C(C=C1)[P:22](=[O:21])(C2=CC=CC=C2)C3=CC=CC=C3.C(Br)(Br)Br 10=20;20,21=21,22
C[N+:21](=[C:20]1OCCO1)C.[OH2:10]>>C[N:21](C)[C:20]1(OCCO1)[OH2+:10] 10=20;20,21=21
[CH:10]1=[CH:11]OC(=C1)C(F)(F)F.[N+:20](=O)=[O:21]>>C1=C(O[CH+:11][CH:10]1[N+:20](=O)[O-:21])C(F)(F)F 10,11=10,20;20,21=21
